US08729061B2
(2S,4R)-4-(2-chloro-4-((S)-1,1,1-trifluoropropan-2-yloxy)phenylsulfonyl)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)pyrrolidine-2-carboxamide
The title compound was prepared in analogy to Example 1, using (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide and (2S,4R)-1-[1-(4-chloro-phenyl)-cyclopropanecarbonyl]-4-[2-chloro-4-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid in step 1. MS (m/e)=746.17 [M+H+].

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxyhexanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CCC | C9H18N2O2
reactant | (2S,4R)-1-[1-(4-chloro-phenyl)-cyclopropanecarbonyl]-4-[2-chloro-4-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)O[C@H](C(F)(F)F)C)Cl)C(=O)O | C24H22Cl2F3NO6S
product | (2S,4R)-4-(2-chloro-4-((S)-1,1,1-trifluoropropan-2-yloxy)phenylsulfonyl)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-N—((S)-1-(cyclopropylamino)-1,2-dioxohexan-3-yl)pyrrolidine-2-carboxamide | ClC1=C(C=CC(=C1)O[C@H](C(F)(F)F)C)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl)C(=O)N[C@H](C(C(=O)NC1CC1)=O)CCC | C33H36Cl2F3N3O7S
